US06127390
Step A: 2-Amino-6-(1 -phenylethyn-2-yl)pyridine
A solution of 2-amino-6-bromopyridine (200 mg, 1.16 mmol), 1-phenylacetylene (142 mg, 1.39 mmol), bis(triphenylphosphine) palladium (II) chloride (14 mg, 0.02 mmol), and CuI (2 mg, 0.01 mmol) in 2 mL triethylamine was stirred at 60° C. in a sealed tube for 18 hours. The reaction was cooled and concentrated in vacuo to a dark oil. The oil was purified by gravity column chromatography over silica gel with 2% methanol/chloroform to give the desired product as a brown oil. 400 Mhz H1NMR (CDCl3): 4.57(br s, 2H), 6.49(d, 1H), 6.93(d, 1H), 7.38(m, 3H), 7.41(t, 1H), 7.58(d, 1H).

reactant | 2-amino-6-bromopyridine | 1.16 mmol, 200 mg | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | 1-phenylacetylene | 1.39 mmol, 142 mg | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.02 mmol, 14 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | CuI | 0.01 mmol, 2 mg | [Cu]I
product | 2-Amino-6-(1 -phenylethyn-2-yl)pyridine | NC1=NC(=CC=C1)C#CC1=CC=CC=C1 | C13H10N2
